US08003658B2
Preparation of {2-[4-(4-phenylcarbamoyl-phenylamino)-quinazolin-6-ylcarbamoyl]-ethyl}-carbamic acid t-butylester
1 g of 2-[3-cyano-4-(dimethylamino-methylene amino)-phenylcarbamoyl]-ethyl-carbamic acid t-butylester (see, Journal of Medicinal Chemistry 2004, 44:2719) dissolved in 6 ml of acetic acid was reacted with 650 mg of 4-amino-N-phenyl-benzamide at 60° C. for 3 hours, and the resulting residue was stirred in 100 ml of saturated aqueous sodium bicarbonate solution at room temperature for 30 mins. The reacted solution was extracted with 30 ml of ethylacetate 3 times, dried over anhydrous magnesium sulfate, filtered and distilled under a reduced pressure, and the resulting residue was subjected to column chromatography (eluent-chloroform:methanol=15:1) to obtain the title compound (350 mg, 25%).

reactant | 2-[3-cyano-4-(dimethylamino-methylene amino)-phenylcarbamoyl]-ethyl-carbamic acid t-butylester | 1 g | C(C)(C)(C)OC(NCCC(NC1=CC(=C(C=C1)N=CN(C)C)C#N)=O)=O | C18H25N5O3
reactant | 4-amino-N-phenyl-benzamide | 650 mg | NC1=CC=C(C(=O)NC2=CC=CC=C2)C=C1 | C13H12N2O
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
product | {2-[4-(4-phenylcarbamoyl-phenylamino)-quinazolin-6-ylcarbamoyl]-ethyl}-carbamic acid t-butylester | 350 mg, 25% | C(C)(C)(C)OC(NCCC(NC=1C=C2C(=NC=NC2=CC1)NC1=CC=C(C=C1)C(NC1=CC=CC=C1)=O)=O)=O | C29H30N6O4
